US07595405B2
A solution of LiOH.H2O (39.1 mg, 0.931 mmol) in H2O (8 mL) was added dropwise to a suspension of 5-(1-ethyl-1H-tetrazol-5-yl)-4′-methyl-biphenyl-3-carboxylic acid methyl ester (200 mg, 0.621 mmol) in THF (5 mL) at 0° C. The reaction mixture was allowed to warm to room temperature and was stirred until the mixture turned clear. THF was removed under vacuum and the aqueous solution was acidified by 10% HCl to pH=3. The precipitate was collected and dried to afford 5-(1-ethyl-1H-tetrazol-5-yl)-4′-methyl-biphenyl-3-carboxylic acid as white solid (162 mg, 84%). MS (M+H)=309.

reactant | LiOH.H2O | 0.931 mmol, 39.1 mg | O[Li].O
reactant | 5-(1-ethyl-1H-tetrazol-5-yl)-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 0.621 mmol, 200 mg | COC(=O)C=1C=C(C=C(C1)C1=NN=NN1CC)C1=CC=C(C=C1)C | C18H18N4O2
solvent | H2O | 8 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(1-ethyl-1H-tetrazol-5-yl)-4′-methyl-biphenyl-3-carboxylic acid | 162 mg, 84% | C(C)N1N=NN=C1C=1C=C(C=C(C1)C1=CC=C(C=C1)C)C(=O)O | C17H16N4O2
